US06348592B1
Synthesis of 2,2-Bis(hydroxymethyl)-2,3-dihydroperimidine
Into a 500-ml, 4-neck round bottomed flask equipped with a Teflon-coated mechanical stirrer was put 31.6 g (0.200 mol) of 1,8-diaminonaphthalene, 3 g of Super-Cel filter aide, and 200 ml of n-propyl acetate to form a first reaction mixture. This reaction mixture was stirred at room temperature for 15 minutes, then suction filtered through a pad of Super-Cel, and the pad was rinsed with 50 ml of fresh n-propyl acetate. The filtrate was transferred to a clean 500-ml, 4-neck round-bottomed flask equipped with Teflon sweep vacuum stirrer, reflux condenser, and thermometer, and 18.9 g (0.105 mol) of 1,3-dihydroxyacetone dimer added. The reaction mixture was stirred at 300 rpm and heated to reflux (95° C.) on a heating mantle for 1 hour. At this point, 100 ml of distillate was removed via short-path distillation over 1 hour. The mixture was cooled to 5° C., and the desired product (first intermediate) was collected by suction filtration and washed with 50 ml of cold n-propyl acetate. After vacuum drying overnight at 40° C., the yield of product was 38.7 g (84% of theoretical). Chromatographic analysis of the product indicated it was 99.6% pure, m.p. 158.2° C.

reactant | 1,8-diaminonaphthalene | 0.200 mol, 31.6 g | NC1=CC=CC2=CC=CC(=C12)N | C10H10N2
reactant | 1,3-dihydroxyacetone dimer | 0.105 mol, 18.9 g | C1C(OCC(O1)(CO)O)(CO)O | C6H12O6
product | 2,2-Bis(hydroxymethyl)-2,3-dihydroperimidine | OCC1(NC=2C=CC=C3C=CC=C(N1)C23)CO | C13H14N2O2
